US07153863B2
A solution of 2-isobutyl-3-[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine (930 mg, 2.98 mmol) in cyclopentylamine (5 mL) was heated at 130° C. for 4 h. The mixture was cooled to room temperature and concentrated in vacuo and the residue was purified by flash chromatography on silica gel (2:1 to 1:1 hexane-ethyl acetate) to give N-cyclopentyl-4-(2-isobutylpyrazolo[1,5-a]pyridin-3-yl)pyrimidin-2-amine (890 mg, 89%) as a White solid. 1H NMR (CDCl3) δ 8.44 (d, 1H), 8.28–8.25 (m, 2H), 7.26 (m, 1H), 6.85–6.76 (m, 2H), 5.08 (m, 1H), 4.40 (m, 1H), 3.00 (d, 2H), 2.26–2.05 (m, 3H), 1.83–1.51 (m, 6H), 1.00 (d, 6H); MS m/z 336 (M+1).

reactant | 2-isobutyl-3-[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine | 2.98 mmol, 930 mg | C(C(C)C)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)S(=O)C | C16H18N4OS
reactant | cyclopentylamine | 5 mL | C1(CCCC1)N | C5H11N
product | N-cyclopentyl-4-(2-isobutylpyrazolo[1,5-a]pyridin-3-yl)pyrimidin-2-amine | 890 mg, 89% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)CC(C)C | C20H25N5
